US08802728B2
Add a solution of t-BuLi (20 mL, 26.0 mmol) via syringe to a solution of 3-bromo-phenol (2.06 g, 12 mmol) in THF (20 mL) at −78° C. under N2. After being stirred at −78° C. for 1 hour, add a solution of (1R,2R,4S,5S)-2,6,6-trimethyl-4-((methyl(phenethyl)amino)methyl)bicyclo[3.1.1]heptan-3-one (2.99 g, 10 mmol) in THF (2 mL) to the reaction mixture and stir the reaction mixture at −78° C. for additional 2 hours. Quench the reaction with saturated NH4Cl solution (30 mL). Extract the aqueous mixture with EtOAc (60 mL×3). The combined organic layers are washed with brine (30 mL), dried over Na2SO4, filtered, and concentrated under vacuum. Purify the residue by Preparative HPLC to give (1R,2R,3S,4S,5S)-3-(3-hydroxyphenyl)-2,6,6-trimethyl-4-((methyl(phenethyl)amino)methyl)bicyclo[3.1.1]heptan-3-ol as pale yellow oil (0.27 g, yield: 6.9%), MS (m/z): 394 (M+1).

reactant | t-BuLi | 26.0 mmol, 20 mL | [Li]C(C)(C)C
reactant | 3-bromo-phenol | 12 mmol, 2.06 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | (1R,2R,4S,5S)-2,6,6-trimethyl-4-((methyl(phenethyl)amino)methyl)bicyclo[3.1.1]heptan-3-one | 10 mmol, 2.99 g | C[C@@H]1[C@@H]2C([C@H]([C@H](C1=O)CN(CCC1=CC=CC=C1)C)C2)(C)C | C20H29NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (1R,2R,3S,4S,5S)-3-(3-hydroxyphenyl)-2,6,6-trimethyl-4-((methyl(phenethyl)amino)methyl)bicyclo[3.1.1]heptan-3-ol | 0.27 g, yield: 6.9% | OC=1C=C(C=CC1)[C@@]1([C@@H]([C@@H]2C([C@H]([C@H]1CN(CCC1=CC=CC=C1)C)C2)(C)C)C)O | C26H35NO2
